US05410040
3β,17 -Diacetoxy-androst-5,16-diene
300 g (0.9 mole) of dehydroepiandrosterone acetate are dissolved in 1160 ml of isopropenyl acetate, whereupon a solution of 4 ml of concentrated sulfuric acid in 100 ml of isopropenyl acetate is added. The temperature of the reaction mixture is raised slowly (in two hours) to the boiling temperature of isopropenyl acetate, and continuously 400 ml of an acetone/isopropenyl acetate mixture are distilled off. After heating and continuous distillation for 6 hours, the solution is cooled to room temperature and added to 10000 ml of ice water, under stirring. The precipitous solution is allowed to stand at 5° to 10° C. for 12 hours, whereupon the precipitate is filtered off, washed acid-free with water, dried at room temperature and the crude product is crystallized from methanol.

reactant | dehydroepiandrosterone acetate | 0.9 mole, 300 g | CC(=O)O[C@H]1CC[C@@]2([C@H]3CC[C@]4([C@H]([C@@H]3CC=C2C1)CCC4=O)C)C | C21H30O3
reactant | acetone isopropenyl acetate | 400 ml | CC(=O)C.C(C)(=O)OC(=C)C
solvent | isopropenyl acetate | 1160 ml | C(C)(=O)OC(=C)C | C5H8O2
solvent | sulfuric acid | 4 ml | S(O)(O)(=O)=O | H2O4S
solvent | isopropenyl acetate | 100 ml | C(C)(=O)OC(=C)C | C5H8O2
product | 3β,17 -Diacetoxy-androst-5,16-diene | C(C)(=O)O[C@@H]1CC2=CC[C@H]3[C@@H]4CC=C([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)OC(C)=O | C23H32O4
